US05925769
1-(4'-Methylphenyl)-4,4-diethoxybutan-1,3-dione (Cpd. 46).
A 1.0M solution of lithium hexamethyldisilazide in THF (310 mmol, 310 mL) was diluted with 20 mL of THF and cooled to -70° C. (internal temperature) with an acetone/dry ice bath under N2. A solution of 4'-methylacetophenone (150 mmol, 20.1 g, 20 mL) in 50 mL of tetrahydrofuran (THF) was added dropwise over a 15 min period, keeping the internal temperature below -60° C. After 1 h, the cooling bath was removed and the temperature was allowed to rise to -25° C. The reaction flask was immersed in an ice/acetone bath and a solution of ethyl diethoxyacetate (160 mmol, 28 g, 28.6 mL) in 20 mL of THF was added dropwise; during the addition, the internal temperature was kept below 0° C. The brown-red solution was stirred for 24 h and was re-cooled to 0° C. Aqueous HCl (3N, 618 mmol, 206 mL) was added carefully (temperature kept below 20° C.) to bring the pH to 3-4. The layers were separated and the aqueous layer was extracted with 200 mL of ether. The combined organic layers were washed twice with brine, dried over Na2SO4, and concentrated to give 40.3 g (100%) Cpd. 46 as an orange oil; 1H NMR (CDCl3, 300 MHz) 1.30 (t, 6H, J=7), 2.42 (s, 3H), 3.5-3.8 (complex, 4H), 4.90 (s, 1H), 6.58 (s, 1H), 7.28 (d, 2H, J=8), 7.74 (d, 2H, J=8), 15.8 (broad s, 1H).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4'-methylacetophenone | 150 mmol, 20 mL, 20.1 g | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | ethyl diethoxyacetate | 160 mmol, 28.6 mL, 28 g | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | HCl | 618 mmol, 3N, 206 mL | Cl | ClH
solvent | THF | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | O1CCCC1 | C4H8O
solvent | THF | 310 mmol, 310 mL | O1CCCC1 | C4H8O
product | 1-(4'-Methylphenyl)-4,4-diethoxybutan-1,3-dione | CC1=CC=C(C=C1)C(CC(C(OCC)OCC)=O)=O | C15H20O4
